### PR TITLE
[Merged by Bors] - feat(Algebra/Homology): functoriality of `ProjectiveResolution.extMk`

### PR DESCRIPTION
**Pull request by joelriou**
Given a fixed projective (resp. injective) resolution `R`, we obtain the functoriality of the constructor `R.extMk`.

---

- [x] depends on: #32816
 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Abelian/Injective/Ext.lean [hunk 1]
```diff
@@ -200,4 +199,19 @@ lemma extMk_surjective (α : Ext X Y n) (m : ℕ) (hm : n + 1 = m) :
...
+  have := HasDerivedCategory.standard C
+  ext
+  simp only [extMk, Ext.comp_hom, Int.cast_ofNat_Int, Ext.mk₀_hom,
+    extEquivCohomologyClass_symm_mk_hom, Category.assoc]
+  rw [Cocycle.fromSingleMk_precomp g _ (zero_add _) _ (by lia) (by
+      simp [cochainComplex_d _ _ _ n m rfl rfl, reassoc_of% hf]),
+    Cocycle.equivHomShift_symm_precomp, ← ShiftedHom.mk₀_comp 0 rfl,
+    ShiftedHom.map_comp, ShiftedHom.map_mk₀,
+    ShiftedHom.comp_assoc _ _ _ (add_zero _) (zero_add _) (by simp)]
+  rfl
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Abelian/Injective/Ext.lean]: I investigated a little bit why this final `rfl` had to be here, and it seems that this is because the def-eq 
```lean
DerivedCategory.singleFunctor C n = CochainComplex.singleFunctor C n ⋙ Q
```
leaks through at some point. Replacing the `simp only` by a `simp_rw`, I can see that this is because of `extEquivCohomologyClass_symm_mk_hom`, and indeed it is "badly typed" as the LHS is about `DerivedCategory.singleFunctor` while the rhs is about `CochainComplex.singleFunctor C _ ⋙ Q`.

Maybe a `singleFunctorIsoCompQ` needs to be inserted to correct the types in `extEquivCohomologyClass_symm_mk_hom` and fix this?
(Unsurprisingly, the exact same happens for the final `rfl` in the proof in `Mathlib/CategoryTheory/Abelian/Projective/Ext.lean`)

Comment (joelriou) [reply Mathlib/CategoryTheory/Abelian/Injective/Ext.lean]: Thanks for the suggestion. Not abusing the defeq makes the statement of `extEquivCohomologyClass_symm_mk_hom` a little bit more complicated, as there are two additional compositions (including one in `ShiftedHom`), but it only required small changes in the proof of `mk₀_comp_extMk`. (I have done the same for the dual statement.)

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge
